US07223776B2
60.f) 2-(2-{[(Benzo[1,3]dioxol-5-ylmethyl)-amino]-methyl}-morpholin-4-yl)-1-(6-methoxy-quinolin-4-yl)-ethanol
Activated 3A molecular sieve (3.485 g) and piperonal (0.172 g, 1.15 mmol) were added to a solution of 2-(2-aminomethyl-morpholin-4-yl)-1-(6-methoxy-quinolin-4-yl)-ethanol (0.365 g, 1.15 mmol) in DCM (10.5 ml) and methanol (3.5 ml). The mixture was stirred overnight at room temperature before sodium borohydride (0.112 g, 2.9 mmol) was added. The reaction mixture was stirred at room temperature for a further 2 hours, filtered over Hydromatrix (wetted with NaHCO3) and concentrated. The residue was purified by chromatography on silica gel (DCM:MeOH 9:1+1% NH4OH).

reactant | piperonal | 1.15 mmol, 0.172 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | 2-(2-aminomethyl-morpholin-4-yl)-1-(6-methoxy-quinolin-4-yl)-ethanol | 1.15 mmol, 0.365 g | NCC1CN(CCO1)CC(O)C1=CC=NC2=CC=C(C=C12)OC | C17H23N3O3
reactant | sodium borohydride | 2.9 mmol, 0.112 g | [BH4-].[Na+]
solvent | DCM | 10.5 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 3.5 ml | CO | CH4O
product | 2-(2-{[(Benzo[1,3]dioxol-5-ylmethyl)-amino]-methyl}-morpholin-4-yl)-1-(6-methoxy-quinolin-4-yl)-ethanol | O1COC2=C1C=CC(=C2)CNCC2CN(CCO2)CC(O)C2=CC=NC1=CC=C(C=C21)OC | C25H29N3O5
